US07365065B2
Borane-pyridine complex (320 mg, 3.5 mmol) was added to a solution of 3-acetamidoquinoline (320 mg, 1.7 mmol) in acetic acid (20 ml) and the mixture was stirred at room temperature for 18 h. Chloroform (150 ml) was added and the mixture was washed with 2N sodium hydroxide solution, water and brine. The organic phase was dried and reduced. Chromatography (80% EtOAc/20% 60-80 pet. ether) afforded 3-acetamido-1,2,3,4-tetrahydroquinoline (180 mg, 55%) as a pale yellow solid.

reactant | 3-acetamidoquinoline | 1.7 mmol, 320 mg | C(C)(=O)NC=1C=NC2=CC=CC=C2C1 | C11H10N2O
reactant | Chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-acetamido-1,2,3,4-tetrahydroquinoline | 180 mg, 55% | C(C)(=O)NC1CNC2=CC=CC=C2C1 | C11H14N2O
